US05905084
6-hydroxy-3-nitro-2-picoline
A suspension of 3.0 gm (19.6 mMol) 6-amino-3-nitro-2-picoline in 50 mL water containing 3.5 mL concentrated sulfuric acid was heated to effect solution. The resultant solution was cooled to 0° C. and a solution of 2.0 gm (29.4 mMol) sodium nitrite in 10 mL water was added with vigorous stirring at a rate to maintain the reaction mixture ≤10° C. After 4 hours the reaction mixture was filtered. The solid was washed with water and dried under reduced pressure to provide 2.4 gm (80%) of the desired compound as a pale yellow solid.

reactant | 6-amino-3-nitro-2-picoline | 19.6 mMol, 3.0 gm | NC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H7N3O2
reactant | sodium nitrite | 29.4 mMol, 2.0 gm | N(=O)[O-].[Na+]
solvent | water | 50 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 6-hydroxy-3-nitro-2-picoline | 2.4 gm, 80% | OC1=CC=C(C(=N1)C)[N+](=O)[O-] | C6H6N2O3
